US05239083
4-{2-[3-[1-(α-propylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 41)
484 mg of compound 41 was obtained in a similar manner to those described in Examples 1 and 2 using 835 mg of ethyl 4-(2-aminophenoxy)butyrate and 626 mg of 3-[1-(α-propylbenzyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 835 mg | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(α-propylbenzyl)indol-5-yl]isocrotonic acid | 626 mg | C(CC)C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C22H23NO2
product | 4-{2-[3-[1-(α-propylbenzyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | C(CC)C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C32H34N2O4
